US07183415B2
2-methoxy-3-nitrobenzoic acid
1N Sodium hydroxide was added to a solution (50 ml) of methyl 2-methoxy-3-nitrobenzoate (4.96 g, 23.5 mmol) in methanol and the mixture was stirred at 50° C. for 2 hrs. Methanol was evaporated under reduced pressure and water was added. The aqueous layer was acidified with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was recrystallized from hexane-ethyl acetate to give the title compound (4.37 g) as pale-yellow crystals. melting point: 224–226° C.

reactant | Sodium hydroxide | 1N | [OH-].[Na+]
reactant | methyl 2-methoxy-3-nitrobenzoate | 23.5 mmol, 50 ml, 4.96 g | COC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO5
solvent | methanol | CO | CH4O
product | 2-methoxy-3-nitrobenzoic acid | 4.37 g | COC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO5
